US08859732B2
2-Methoxy-4-[2′,2′,2′-tris(octadecyloxymethyl)ethoxy]benzaldehyde (50 mg, 0.049 mmol) was dissolved in dichloromethane (1 ml), hydroxylamine hydrochloride (18 mg, 0.26 mmol) and triethylamine (51 μl, 0.37 mmol) were added, and the mixture was stirred at room temperature for 4 hr. The solvent was evaporated, and the residue was precipitated with acetonitrile to give 2-methoxy-4-[2,2,2-tris(octadecyloxymethyl)ethoxy]benzaldoxime (43 mg, 0.041 mmol, 85%).

reactant | 2-Methoxy-4-[2′,2′,2′-tris(octadecyloxymethyl)ethoxy]benzaldehyde | 0.049 mmol, 50 mg | COC1=C(C=O)C=CC(=C1)OCC(COCCCCCCCCCCCCCCCCCC)(COCCCCCCCCCCCCCCCCCC)COCCCCCCCCCCCCCCCCCC | C67H126O6
reactant | hydroxylamine hydrochloride | 0.26 mmol, 18 mg | Cl.NO
reactant | triethylamine | 0.37 mmol, 51 μl | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | 2-methoxy-4-[2,2,2-tris(octadecyloxymethyl)ethoxy]benzaldoxime | 0.041 mmol, 43 mg, 85% | COC1=C(C=NO)C=CC(=C1)OCC(COCCCCCCCCCCCCCCCCCC)(COCCCCCCCCCCCCCCCCCC)COCCCCCCCCCCCCCCCCCC | C67H127NO6
